US06417200B1
D) N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine
To a mixture of N1-(3-cyanobenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine (2.63 g, 7.17 mmol) and CH2Cl2 (45 mL) at 0° C. was added pyridine (0.65 mL, 8.0 mmol) followed by a solution of the 4-isopropyl benzoyl chloride (10.1 mmol) in CH2Cl2 (90 mL). The reaction was allowed to warm to room temperature and stirred for 10 m. The reaction was diluted with CH2Cl2 (200 mL) and washed with sat. aq. NH4Cl (2×50 mL). The organic layer was MgSO4 dried filtered, and concentrated. The residue was chromatographed (10% EtOAc/hexanes to 20% EtOAc/hexanes) to give the title compound as a solid (3.04 g, 83%); IR(CHCl3): 2962, 1656, 1610, 1513, 1473, 1295 cm−1; NMR(300 MHz, CDCl3): δ0.16 (s, 6H), 0.95 (s, 9H), 1.29 (s, 3H), 1.31 (s, 3H), 3.00 (m, 1H), 6.68 (d, 1H, J=9.0), 6.86 (s, 1H), 7.38 (d, 2H, J=8.1), 7.50 (d, 1H, J=9.0), 7.61 (m, 1H), 7.81 (d, 1H, J=6.3), 7.89 (d, 2H, J=7.1), 8.16 (d, 1H, J=9.3), 8.29 (s, 1H), 8.58 (br s, 1H), 9.40 (br s, 1H); MS(FD): 513.1.

reactant | N1-(3-cyanobenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine | 7.17 mmol, 2.63 g | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O[Si](C(C)(C)C)(C)C)N)C=CC1 | C20H25N3O2Si
reactant | pyridine | 8.0 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-isopropyl benzoyl chloride | 10.1 mmol | C(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine | 3.04 g, 83% | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O[Si](C(C)(C)C)(C)C)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C30H35N3O3Si
